US08377957B2
1,1′-Carbonyldiimidazole (3.20 g, 19.7 mmol) was added to 2-chloro-N4-(pyridin-3-ylmethyl)quinoline-3,4-diamine (5.09 g, 17.9 mmol) in THF (100 mL), and the resulting suspension was heated at 80° C. for three days. An analysis by LC/MS indicated the presence of starting material, and pyridine (100 mL) and additional 1,1′-carbonyldiimidazole (1 equivalent) were added. The reaction was stirred for two hours at 80° C., and additional 1,1′-carbonyldiimidazole (1 equivalent) was added. The reaction was stirred overnight at 80° C. and allowed to cool; a solid was present. Diethyl ether (50 mL) was added, and the solid was isolated by filtration and dried under vacuum to provide 4.2 g of 4-chloro-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol as a gray solid.

reactant | 1,1′-Carbonyldiimidazole | 19.7 mmol, 3.20 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-N4-(pyridin-3-ylmethyl)quinoline-3,4-diamine | 17.9 mmol, 5.09 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC=1C=NC=CC1 | C15H13ClN4
reactant | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,1′-carbonyldiimidazole | 1 equivalent | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,1′-carbonyldiimidazole | 1 equivalent | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-1-(pyridin-3-ylmethyl)-1H-imidazo[4,5-c]quinolin-2-ol | 4.2 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC=2C=NC=CC2)O | C16H11ClN4O
